US07629467B2
Preparation of (±)-2-Phenylbicyclo[2.2.1]heptan-2-ol (I-2a)
To a solution of norcamphor (60.0 g, 0.54 mole) in THF (1 L) at −65° C. was added phenyl magnesium bromide (200 mL of a 3 M solution in ether, 0.60 mole). The temperature was kept between −65° C. and −20° C. during the addition. After completion of addition, the mixture was slowly warmed to room temperature and stirred overnight. The mixture was cooled to 0° C. and saturated aqueous ammonium chloride (200 mL) was added carefully. A solution of 1 N hydrochloric acid was added until the residual salts were dissolved. The mixture was then extracted twice with ether and the combined organic phases were washed successively with water and brine. The organic layer was dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel; hexane/EtOAc 9:1) provided I-2a as a white solid (95.0 g).

reactant | norcamphor | 0.54 mole, 60.0 g | C1CC2CC1CC2=O | C7H10O
reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (±)-2-Phenylbicyclo[2.2.1]heptan-2-ol | 95.0 g | C1(=CC=CC=C1)C1(C2CCC(C1)C2)O | C13H16O
